US07915271B2
2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-N,N,2-trimethyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxamide
2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid (EXAMPLE 30,300 mg, 0.42 mmol), N-methylmethanamine hydrochloride (41 mg, 0.50 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (121 mg, 0.63 mmol), 1H-1,2,3-benzotriazol-1-ol hydrate (86 mg, 0.56 mmol) and triethylamine (146 μL, 1.05 mmol) were stirred in DCM (5 mL) at room temperature for 1.5 hours. LCMS of aliquot at this time indicated formation of the desired product and complete consumption of starting material. Crude mixture was diluted with MeCN and purified by reversed phase preparative HPLC (Kromasil 100-5C18, 100×21.1 mm) eluting with (acetonitrile+0.1% v/v TFA)/(water+0.1% v/v TFA) (10% to 100% organic in 10 min, hold 100% for 2 min, 20 mL/min) to give a solid foam. This solid foam was dissolved in EtOAc and washed with NaHCO3 (sat., aq) and then with water. Aqueous layers were separated from the extracts. The combined aqueous phases were back extracted with EtOAc. The combined extracts were dried over Na2SO4, filtered and then concentrated in vacuo to afford the title compound. LCMS (ESI) calc.=738.21; found=739.41 (M+1)+. 1H NMR (CDCl3, 500 MHz, 1:1 mixture of atropisomers): δ 7.85 (s, 0.5H), 7.71 (s, 0.5H), 7.69 (s, 1H), 7.67-7.62 (m, 2.5H), 7.44 (d, J=8 Hz, 0.5H), 7.41 (d, J=8.5 Hz, 0.5H), 7.36 (t, J=7.5 Hz, 1H), 7.32 (d, J=8 Hz, 1H), 7.25 (s, 0.5H), 7.23 (s, 1H), 7.19 (d, J=8 Hz, 0.5H), 7.12 (t, J=2 Hz, 1H), 7.07 (d, J=7 Hz, 0.5H), 7.05 (d, J=7 Hz, 0.5H), 5.58 (d, J=8 Hz, 0.5H), 5.30 (d, J=8 Hz, 0.5H), 4.96 (d, J=16 Hz, 1H), 4.16 (d, J=16 Hz, 0.5H), 3.97 (d, J=15.5 Hz, 0.5H), 3.86 (s, 3H), 3.81-3.73 (m, 1H), 3.11 (s, 3H), 3.02 (s, 3H), 2.33 (s, 1.5H), 2.27 (s, 1.5H), 0.54 (d, J=6.5 Hz, 1.5H), 0.41 (d, J=6.5 Hz, 1.5H).

reactant | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | 0.42 mmol, 30,300 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)C)(F)F | C35H26F9NO5
reactant | N-methylmethanamine hydrochloride | 0.50 mmol, 41 mg | Cl.CNC
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.63 mmol, 121 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1H-1,2,3-benzotriazol-1-ol hydrate | 0.56 mmol, 86 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | triethylamine | 1.05 mmol, 146 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-N,N,2-trimethyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxamide | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)N(C)C)C)C)(F)F | C37H31F9N2O4
